US07790751B2
3-(1-Naphthylsulfonyl)-5-(piperidin-4-ylmethoxy)-1H-indazole
A mixture of 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxymethyl]-piperidine-1-carboxylic acid benzyl ester (0.3 g, 0.54 mmoles) and 33 wt % HBr in acetic acid (1.5 mL) was stirred at room temperature for 30 minutes, diluted with ethyl ether and filtered. The filtercake was washed with ether, dried, treated with 1N NaOH and saturated NaCl and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated under vacuum to afford the title compound as an off-white solid; mp 175-177° C., identified by HNMR and mass spectral analyses, MS (ES) m/z 420.2.

reactant | 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxymethyl]-piperidine-1-carboxylic acid benzyl ester | 0.54 mmoles, 0.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H29N3O5S
reactant | HBr | Br | BrH
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-(1-Naphthylsulfonyl)-5-(piperidin-4-ylmethoxy)-1H-indazole | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCC1CCNCC1 | C23H23N3O3S
